US06833376B2
1-[2-[4-[5-aminomethyl-1-(4-fluorophenyl)-1H-indol-3-yl]-1-piperidinyl]ethyl]-2-imidazolidinon (9)
5-Cyano-1-(4-fluorophenyl)-3-[1-[2-(2-imidazolidinon-1-yl)ethyl]-1,2,3,6-tetrahydropyridin4-yl]-1H-indole (Perregaard, J.; Bges, K. P.; Hyttel, J.; Sánches, C.: J Med. Chem., 1992, 35, 1092-1101) (4.6 g) was hydrogenated with PtO2 in acetic acid at 3 ATO for 5 h. Ice and ammonium hydroxide was added to pH 9 and the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with water, dried over MgSO4 and the solvent was removed in vacuo. The title compound was purified by preparative HPLC (ethanol/NH4OH 100/4). Yield 0.9 g, mp. 171-175° C. (diethyl ether). 1H-NMR (CDCl3) 1.85 (d, 2H), 2.10 (d, 2H), 2.25 (td, 2H), 2.60 (t, 2H), 2.90 (tt, 1H), 3.10 (d, 2H), 3.4 (q, 4H), 3.6 (q, 2H), 3.95 (s, 2H), 4.70 (s, broad, 1H), 7.00 (s, 1H), 7.10-7.25 (m, 3H), 7.30-7-50 (m, 3H), 7.60 (s, 1H). Analysis: Calc (corrected for 1% water): C: 68.22, H: 7.01, N: 15.92 Found: C: 67.51, H: 6.90, N: 15.37

reactant | 5-Cyano-1-(4-fluorophenyl)-3-[1-[2-(2-imidazolidinon-1-yl)ethyl]-1,2,3,6-tetrahydropyridin4-yl]-1H-indole | 4.6 g | C(#N)C=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C=1CCN(CC1)CCN1C(NCC1)=O | C25H24FN5O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
product | 1-[2-[4-[5-aminomethyl-1-(4-fluorophenyl)-1H-indol-3-yl]-1-piperidinyl]ethyl]-2-imidazolidinon | NCC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C1CCN(CC1)CCN1C(NCC1)=O | C25H30FN5O
